US06919337B2
Potassium carbonate (48 mg, 0.35 mmol) and iodomethane (0.018 ml, 0.295 mmol) are added to a solution of the product of Example 10, 8-(6,7-dimethoxy-isoquinolin4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione (0.100 g, 0.24 mmol) in DMF (2 ml). The reaction is stirred overnight and purified by preparative HPLC to afford 8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1,7-dimethyl-3,7-dihydro-purine-2,6-dione, [MH]+ 438.

reactant | Potassium carbonate | 0.35 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.295 mmol, 0.018 ml | IC | CH3I
reactant | 8-(6,7-dimethoxy-isoquinolin4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione | 0.24 mmol, 0.100 g | COC=1C=C2C(=CN=CC2=CC1OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(C)C | C22H25N5O4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1,7-dimethyl-3,7-dihydro-purine-2,6-dione | COC=1C=C2C(=CN=CC2=CC1OC)CC1=NC=2N(C(N(C(C2N1C)=O)C)=O)CC(C)C | C23H27N5O4
